US04975451
Under a nitrogen atmosphere a stirred solution of 550 ml (0.55 mole) of 1M vinylmagnesium bromide in tetrahydrofuran was cooled to 10°-15° C., and a solution of 115.0 grams (0.5 mole) of cyclopropyl 4-trifluoromethoxyphenyl ketone in 100 ml of tetrahydrofuran was added dropwise during a 30 minute period. Upon completion of addition the reaction mixture temperature was maintained at less than 20° C. where it was stirred for one hour. The reaction mixture was poured into a mixture of 2000 ml of pH5 buffer in 1000 ml of ice. To this was added 1000 ml of diethyl ether. The mixture was stirred until the ice melted. The aqueous layer was separated and was washed with two 500 ml portions of diethyl ether. The ether washes were combined with the original organic layer, and the combination was washed in turn with two 500 ml portions of the pH5 buffer solution, two 500 ml portions of water, and one 300 ml portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with ground sodium carbonate and filtered. The filtrate was concentrated under reduced pressure yielding 130.0 grams of 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-2-propen-1-ol.

reactant | vinylmagnesium bromide | 0.55 mole, 1M, 550 ml | C(=C)[Mg]Br
reactant | cyclopropyl 4-trifluoromethoxyphenyl ketone | 0.5 mole, 115.0 grams | FC(OC1=CC=C(C=C1)C(=O)C1CC1)(F)F | C11H9F3O2
reactant | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-2-propen-1-ol | 130.0 grams | C1(CC1)C(C=C)(O)C1=CC=C(C=C1)OC(F)(F)F | C13H13F3O2
